US07888364B2
A solution of 2-(Bromoacetyl)pyridine hydrobromide (100 mg, 0.36 mmol) in ethanol (2 mL) was treated with 1-benzyl-2-thiourea (90 mg, 0.54 mmol). The resulting yellow solution was concentrated, and the crude residue was purified on reverse phase HPLC to produce N-benzyl-4-(pyridin-2-yl)thiazol-2-amine.

reactant | 2-(Bromoacetyl)pyridine hydrobromide | 0.36 mmol, 100 mg | Br.BrCC(=O)C1=NC=CC=C1
reactant | 1-benzyl-2-thiourea | 0.54 mmol, 90 mg | C(C1=CC=CC=C1)NC(=S)N | C8H10N2S
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-benzyl-4-(pyridin-2-yl)thiazol-2-amine | C(C1=CC=CC=C1)NC=1SC=C(N1)C1=NC=CC=C1 | C15H13N3S
